US08138181B2
Step A: Preparation of (trans)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate:
A plastic (HDPE) bottle was charged with naphthalen-2-ylmethyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate (945 mg, 3.509 mmol) and HF-pyridine (264 μL, 10.527 mmol) in DCM (17.55 ml, 3.509 mmol) and the reaction mixture was stirred for 36 hours at ambient temperature. The reaction was slowly quenched with aqueous saturated NaHCO3 and diluted with water and DCM. The reaction mixture was extracted with DCM, and the combined organics layers were dried over Na2SO4 and concentrated to give the product as an oil (237 mg, 23.3% yield)

reactant | naphthalen-2-ylmethyl 6-oxa-3-azabicyclo[3.1.0]hexane-3-carboxylate | 3.509 mmol, 945 mg | C12CN(CC2O1)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C16H15NO3
reactant | HF-pyridine | 10.527 mmol, 264 μL | C1=CC=NC=C1.F
reactant | DCM | 3.509 mmol, 17.55 ml | C(Cl)Cl | CH2Cl2
product | (trans)-naphthalen-2-ylmethyl 3-fluoro-4-hydroxypyrrolidine-1-carboxylate | 237 mg, 23.3% yield | F[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC2=CC=CC=C2C=C1 | C16H16FNO3
